US06518423B1
8-(Aminomethyl)10H-pyrazino[2,3-b][1,4]benzothiazine
7.9 g of N-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)phthalimide was suspended in hydrazine monohydrate (10 ml)/ethanol (50 ml) and the reaction mixture was heated to 80° C. for 20 minutes. Then the reaction mixture was brought back to room temperature. After distilling off the solvent under reduced pressure, the residue was distributed into an aqueous solution of potassium carbonate and ethyl acetate. The organic layer was extracted and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue thus obtained was purified by silica gel column chromatography (eluted with dichloromethane/methanol/aqueous ammonia) to thereby give 5.0 g of the title compound as yellow orthorhombic crystals.

reactant | N-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)phthalimide | 7.9 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CN3C(C=2C(C3=O)=CC=CC2)=O | C19H12N4O2S
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrazine monohydrate | 10 ml | O.NN
product | 8-(Aminomethyl)10H-pyrazino[2,3-b][1,4]benzothiazine | 5.0 g | NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H10N4S
